data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH2:3]1[N:17]2[CH2:4][CH2:21][N:8]([CH2:44][c:11]3[cH:23][cH:27][cH:38][cH:28][cH:24]3)[c:34]3[c:14]2[c:33]([cH:18][n:16][cH:19]3)[N:7]([CH2:43][c:10]2[cH:22][cH:26][cH:37][cH:29][cH:25]2)[CH2:20]1.[O-:1][n+:9]1[o:40][n:31][c:12]2[c:15]3[n+:6]([O-:32])[o:2][n:36][c:30]3[c:35]([N+:5]([O-:39])=[O:41])[cH:13][c:42]12>>[O-:1][n+:9]1[o:40][n:31][c:12]2[c:42]1[CH:13]([N:16]1[CH:18]=[C:33]3[N:7]([CH2:43][c:10]4[cH:22][cH:26][cH:37][cH:29][cH:25]4)[CH2:20][CH2:3][N+:17]4=[C:14]3[C:34](=[CH:19]1)[N:8]([CH2:44][c:11]1[cH:23][cH:27][cH:38][cH:28][cH:24]1)[CH2:21][CH2:4]4)[C:35](=[N+:5]([O-:39])[O-:41])[c:30]1[c:15]-2[n+:6]([O-:32])[o:2][n:36]1", "epd": [["LP-/Pi+", [17], [14, 17]], ["Pi-/Pi+", [33, 14], [18, 33]], ["Pi-/Sigma+", [16, 18], [16, 13]], ["Pi-/Pi+", [13, 35], [35, 5]], ["Pi-/LP+", [5, 41], [41]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:9]1(=[CH2:16])[N:23]([CH3:11])[c:20]2[cH:14][cH:17][cH:18][cH:15][c:19]2[N:24]1[CH3:12].[O:1]=[C:29]1[N:5]([CH3:26])[C:28](=[O:7])[N:6]([CH3:27])[C:30](=[O:2])[C:21]1=[CH:25][c:8]1[cH:31][cH:3][c:22]([O:13][CH3:10])[cH:4][cH:32]1>>[O-:1][c:29]1[n:5]([CH3:26])[c:28](=[O:7])[n:6]([CH3:27])[c:30](=[O:2])[c:21]1[CH:25]([c:8]1[cH:31][cH:3][c:22]([O:13][CH3:10])[cH:4][cH:32]1)[CH2:16][c:9]1[n+:23]([CH3:11])[c:20]2[cH:14][cH:17][cH:18][cH:15][c:19]2[n:24]1[CH3:12]", "epd": [["LP-/Pi+", [23], [9, 23]], ["Pi-/Sigma+", [16, 9], [16, 25]], ["Pi-/Pi+", [25, 21], [21, 29]], ["Pi-/LP+", [29, 1], [1]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[c:2]1([S:16](=[O:22])(=[O:23])[CH-:31][c:11]2[cH:9][cH:18][cH:28][cH:19][cH:10]2)[cH:12][cH:14][cH:7][cH:15][cH:13]1.[n+:1]1([CH3:17])[c:3]2[cH:20][cH:26][cH:24][cH:5][c:29]2[cH:8][c:30]2[c:4]1[cH:21][cH:27][cH:25][cH:6]2>>[N:1]1([CH3:17])[c:3]2[cH:20][cH:26][cH:24][cH:5][c:29]2[CH:8]([CH:31]([c:11]2[cH:9][cH:18][cH:28][cH:19][cH:10]2)[S:16]([c:2]2[cH:12][cH:14][cH:7][cH:15][cH:13]2)(=[O:22])=[O:23])[c:30]2[c:4]1[cH:21][cH:27][cH:25][cH:6]2", "epd": [["LP-/Sigma+", [31], [31, 8]], ["Pi-/Pi+", [8, 29], [29, 3]], ["Pi-/LP+", [3, 1], [1]]]}
{"reaction_name": "Sulfonium ion formation", "rsmi": "[CH3:1][S:3][CH3:2].[CH3:4][I:5]>>[CH3:1][S+:3]([CH3:2])[CH3:4].[I-:5]", "epd": [["LP-/Sigma+", [3], [3, 4]], ["Sigma-/LP+", [4, 5], [5]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:1]([N+:5]12[CH2:13][CH2:31][N+:12]([F:4])([CH2:32][CH2:14]1)[CH2:33][CH2:15]2)[Cl:34].[N:2]1([c:6]2[c:27]([CH3:8])[cH:23][c:18]([CH3:16])[cH:26][c:30]2[CH3:11])[CH:22]=[CH:21][N:3]([c:7]2[c:28]([CH3:9])[cH:24][c:19]([CH3:17])[cH:25][c:29]2[CH3:10])[C:35]1=[CH2:20]>>[CH2:1]([N+:5]12[CH2:13][CH2:31][N:12]([CH2:32][CH2:14]1)[CH2:33][CH2:15]2)[Cl:34].[n+:2]1(-[c:6]2[c:27]([CH3:8])[cH:23][c:18]([CH3:16])[cH:26][c:30]2[CH3:11])[cH:22][cH:21][n:3](-[c:7]2[c:28]([CH3:9])[cH:24][c:19]([CH3:17])[cH:25][c:29]2[CH3:10])[c:35]1[CH2:20][F:4]", "epd": [["LP-/Pi+", [2], [35, 2]], ["Pi-/Sigma+", [20, 35], [20, 4]], ["Sigma-/LP+", [4, 12], [12]]]}
{"reaction_name": "Imide hydrolysis", "rsmi": "[O-:3][H:9].[O:1]=[C:7]([NH:4][C:8](=[O:2])[CH3:6])[CH3:5]>>[O:1]=[C:7]([O-:3])[CH3:5].[O:2]=[C:8]([NH:4][H:9])[CH3:6]", "epd": [["LP-/Sigma+", [3], [3, 7]], ["Pi-/LP+", [1, 7], [1]], ["LP-/Pi+", [1], [1, 7]], ["Sigma-/LP+", [4, 7], [4]], ["LP-/Sigma+", [4], [4, 9]], ["Sigma-/LP+", [3, 9], [3]]]}
{"reaction_name": "Nucleophilic addition to terminal diazo nitrogen", "rsmi": "[N+:1]([C-:12]([C:2]([O:14][CH3:9])=[O:18])[C:3]([O:15][CH3:10])=[O:19])#[N:23].[O-:4][C:11](=[CH:5][N:22]=[CH:24][c:8]1[cH:6][cH:20][cH:25][cH:21][cH:7]1)[O:16][CH2:17][CH3:13]>>[N:1]([C-:12]([C:2]([O:14][CH3:9])=[O:18])[C:3]([O:15][CH3:10])=[O:19])=[N:23][CH:5]([C:11](=[O:4])[O:16][CH2:17][CH3:13])[N:22]=[CH:24][c:8]1[cH:6][cH:20][cH:25][cH:21][cH:7]1", "epd": [["LP-/Pi+", [4], [11, 4]], ["Pi-/Sigma+", [5, 11], [5, 23]], ["Pi-/LP+", [23, 1], [1]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[CH:2]1=[CH:6][c:7]2[cH:14][cH:13][cH:25][cH:8][c:19]2[CH:27]1[Na:21].[cH:1]1[cH:3][cH:16][cH:5][c:9]2[c:4]1[N+:22]([CH3:11])=[CH:15][C:12]2=[CH:10][c:20]1[cH:17][cH:23][cH:26][cH:24][cH:18]1>>[Na+:21].[cH:1]1[cH:3][cH:16][cH:5][c:9]2[c:4]1[n:22]([CH3:11])[cH:15][c:12]2[CH:10]([c:20]1[cH:17][cH:23][cH:26][cH:24][cH:18]1)[CH:27]1[CH:2]=[CH:6][c:7]2[cH:14][cH:13][cH:25][cH:8][c:19]21", "epd": [["Sigma-/Sigma+", [27, 21], [27, 10]], ["Pi-/Pi+", [10, 12], [12, 15]], ["Pi-/LP+", [15, 22], [22]]]}
